US04229464
1.5 g of 4-(2,3-epoxypropoxy)-2-carbamoyl-6-methyl indole in 25 ml tert.-butylamine is heated to boiling for 24 hours. The solution is then evaporated and the residue dissolved in chloroform. The chloroform solution is washed with water, dried and evaporated. The residue is suspended in hot acetic ester and mixed with 0.8 g benzoic acid. A clear solution will result here, from which a precipitate deposits. This is aspirated and recrystallized from 100 ml acetic ester. There is obtained 1.5 g (55% of theory) 4-(2-hydroxy-3-tert.-butylaminopropoxy)-2-carbamoyl-6-methyl indole as benzoate; m.p. 213°-214° C.

reactant | 4-(2,3-epoxypropoxy)-2-carbamoyl-6-methyl indole | 1.5 g | O1C(COC2=C3C=C(NC3=CC(=C2)C)C(N)=O)C1 | C13H14N2O3
reactant | tert.-butylamine | 25 ml | C(C)(C)(C)N | C4H11N
product | 4-(2-hydroxy-3-tert.-butylaminopropoxy)-2-carbamoyl-6-methyl indole | 1.5 g, 55% | OC(COC1=C2C=C(NC2=CC(=C1)C)C(N)=O)CNC(C)(C)C | C17H25N3O3
